US07635715B2
Step D: Preparation of 1,1-Dimethylethyl N-((7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
A solution of ethyl 7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.200 g, 0.456 mmol), glycine tert-butyl ester hydrochloride (0.0993 g, 0.592 mmol), and DIPEA (0.159 mL, 0.911 mmol) in 1,4-dioxane (5 mL) was heated to 120° C. in a 15 mL sealed vessel for 3 hours. The reaction was then diluted with deionized water (50 mL) and extracted with DCM (2×50 mL). The combined organic layers were washed with deionized water (50 mL) and then with brine (50 mL). The organic layer was then dried over MgSO4, concentrated, and dried in vacuo to give 0.338 g of the crude product. The crude product was purified by flash column chromatography (silica, 0-50% DCM in hexane) to give the title compound (0.185 g). MS m/e 412 (M−H)−.

reactant | ethyl 7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.456 mmol, 0.200 g | ClC1=CC=C2C(=C(C(C(C2=C1Cl)(C)C)=O)C(=O)OCC)O | C15H14Cl2O4
reactant | glycine tert-butyl ester hydrochloride | 0.592 mmol, 0.0993 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIPEA | 0.911 mmol, 0.159 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 1,1-Dimethylethyl N-((7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.185 g | ClC1=CC=C2C(=C(C(C(C2=C1Cl)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H21Cl2NO5
